US07678803B2
A solution of ammonia in MeOH (7 N, 20 mL) is added to 2-(1-cyano-2-ethoxy-vinyl)-4-fluoro-benzonitrile (0.88 g, 4 mmol). The reaction mixture is stirred at RT for 5 h. The orange precipitate is collected by vacuum filtration to afford 0.297 g (40%) of 1-amino-6-fluoro-isoquinoline-4-carbonitrile as an orange solid. LC/MS m/z=188 [M+H]+, RT=2.10-2.15 min. 1H NMR (CDCl3, 25 deg, 500 MHz): δ 8.44 (dd, 2H), 8.18 (t, 1H), 8.04 (bs, 4H), 7.73 (d, 1H), 7.63 (dt, 1H), 7.53 (dt, 2H), 7.43 (dd, 2H)

reactant | ammonia | N | H3N
reactant | 2-(1-cyano-2-ethoxy-vinyl)-4-fluoro-benzonitrile | 4 mmol, 0.88 g | C(#N)C(=COCC)C1=C(C#N)C=CC(=C1)F | C12H9FN2O
solvent | MeOH | 7 N, 20 mL | CO | CH4O
product | 1-amino-6-fluoro-isoquinoline-4-carbonitrile | 0.297 g, 40% | NC1=NC=C(C2=CC(=CC=C12)F)C#N | C10H6FN3
